US05569664
To a stirred solution of 1.3 grams (0.004 mole) of 4-(diethylphosphono)phenylmethanol and two drops of pyridine in 10 mL of methylene chloride was added 0.39 mL (0.005 mole) of thionyl chloride. Upon completion of the addition, the reaction mixture was stirred for 30 minutes, then washed with 10 mL of water and 10 mL of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding the intermediate 4-(diethylphosphono)phenylmethyl chloride. The chloride was not further characterized. A solution of 2.7 grams (0.005 mole) of 4-[bis(4-trifluoromethylphenyl)hydroxymethyl]piperidine (prepared as in Step A of Example 17) in 10 mL of dimethyl sulfoxide was stirred, and 2.5 mL (excess) of diisopropylethylamine was added. To this was then added a solution of the methyl chloride, prepared above, in one mL of dimethyl sulfoxide. Upon completion of the addition, the reaction mixture was stirred at ambient temperature for one hour, then poured into water, and the mixture was extracted with one 150 mL portion of methylene chloride. The extract was washed with one 50 mL portion of an aqueous solution saturated with ammonium chloride and one 50 mL portion of water. The extract was concentrated under reduced pressure to a residue, which was subjected to column chromatography on silica gel, with pure ethyl acetate as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 1.6 grams of N-[4-(diethylphosphono)phenylmethyl]-4-[bis(4-trifluoromethylphenyl)hydroxymethyl]piperidine. The NMR spectrum was consistent with the proposed structure.

reactant | 4-(diethylphosphono)phenylmethanol | 0.004 mole, 1.3 grams | C(C)OP(=O)(OCC)C1=CC=C(C=C1)CO | C11H17O4P
reactant | thionyl chloride | 0.005 mole, 0.39 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | two drops | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(diethylphosphono)phenylmethyl chloride | C(C)OP(=O)(OCC)C1=CC=C(C=C1)CCl | C11H16ClO3P
